US07635684B2
3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[2-(benzyloxycarbonylamino)ethyl]-2-methylphenyl}-methyl)-5-isopropyl-1H-pyrazole (0.3 g) was dissolved in tetrahydrofuran (2 mL). To the solution was added 10% palladium-carbon powder (20 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 6 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-aminoethyl)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole (0.24 g). The obtained 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-aminoethyl)-2-methylphenyl]-methyl}-5-isopropyl-1H-pyrazole (0.13 g) was dissolved in dichloromethane (2.6 mL). To the solution were added triethylamine (0.042 mL) and 4-nitrophenyl chloroformate (52 mg) under ice-cooling, and the mixture was stirred at room temperature for 2 hours. A ¼ amount of the reaction mixture was separated. To the part of the reaction mixture were added triethylamine (0.028 mL) and L-threonine amide hydrochloride (23 mg), and the mixture was stirred at room temperature overnight. The reaction mixture was purified by column chromatography on silica gel (eluent: ethyl acetate-ethyl acetate/methanol=10/1) to give 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-{3-[(1S,2R)-1-carbamoyl-2-hydroxypropyl]-ureido}ethyl)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole (30 mg). This material was dissolved in methanol (2 mL). To the solution was added sodium methoxide (28% methanol solution, 0.006 mL), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added acetic acid (0.005 mL). The resulting mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give the title compound (21 mg).

reactant | 3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[2-(benzyloxycarbonylamino)ethyl]-2-methylphenyl}-methyl)-5-isopropyl-1H-pyrazole | 0.3 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)CCNC(=O)OCC1=CC=CC=C1)C)C(C)C | C38H47N3O12
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 20 mg | [C].[Pd]
product | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-aminoethyl)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole | 0.24 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)CCN)C)C(C)C | C30H41N3O10
